US06579872B1
N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2-hydroxy-3-piperidinopropoxy)benzamide
Piperidine (3 g) was added to a stirred solution of N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2,3-epoxypropoxy)benzamide (0.19 g) in a mixture of methylene chloride (3 ml) and methanol (3 ml). The resultant solution was stirred at ambient temperature for 18 hours. The mixture was evaporated and the residue was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.19 g); NMR Spectrum: (DMSOd6) 1.6 (m, 6H), 2.18 (s, 3H), 2.92 (m, 12H), 4.02 (m, 2H), 4.22 (m, 1H), 6.9 (m, 1H), 7.2 (m, 4H), 7.29 (t, 1H), 7.43 (t, 1H), 7.57 (m, 3H), 7.8 (d, 1H), 9.92 (br s, 1H), 10.12 (br s, 1H); Mass Spectrum: M+H+ 531.

reactant | Piperidine | 3 g | N1CCCCC1 | C5H11N
reactant | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2,3-epoxypropoxy)benzamide | 0.19 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)OCC2CO2)=O)C)C=CC1)C | C26H27N3O4
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 3 ml | CO | CH4O
product | N-[5-(3-dimethylaminobenzamido)-2-methylphenyl]-3-(2-hydroxy-3-piperidinopropoxy)benzamide | 0.19 g | CN(C=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC(=CC=C2)OCC(CN2CCCCC2)O)=O)C)C=CC1)C | C31H38N4O4
